US05616590
Preparation of 2-fluoro-3-dihydroxyborylpyridine:
800 ml (1.28 mol) of n-BuLi (1.6M in hexane) are added to a solution of 188 ml (1.32 mol) of TMP in 1,000 ml of THF at -78° C. under argon. After the mixture has been stirred for 45 minutes at this temperature, 120.4 g (1.24 mol) of 2-fluoropyridine in 200 ml of THF are added in the course of 3 minutes. After the mixture has been stirred for 4 hours at -78° C., a solution of 128.8 g (1.24 mol) of trimethyl borate in 200 ml of THF is added dropwise in the course of 20 minutes. Then, 200 ml of a 1: 1 mixture of water/THF is added at 25° C., and 256 ml of concentrated HCl are added dropwise, with ice-cooling. The organic phase is separated off, and the aqueous phase is washed twice using Et2O, filtered and concentrated in vacuo. Crude yield 148.2 g.

reactant | n-BuLi | 1.28 mol, 1.6M, 800 ml | [Li]CCCC
reactant | 2-fluoropyridine | 1.24 mol, 120.4 g | FC1=NC=CC=C1 | C5H4FN
reactant | trimethyl borate | 1.24 mol, 128.8 g | B(OC)(OC)OC | C3H9BO3
reactant | HCl | 256 ml | Cl | ClH
solvent | THF | 1,000 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | water THF | O.C1CCOC1
product | 2-fluoro-3-dihydroxyborylpyridine | FC1=NC=CC=C1B(O)O | C5H5BFNO2
